US04874775
N-(2-chloro-4-methylphenyl)-N-(pyridin-3-ylmethyl)-methanesulfonamide
A 3.5 g. portion of 3-(2-chloro-4-methylphenylaminomethyl)pyridine was dissolved in 15 ml. of dichloromethane, and 2.8 g. of potassium carbonate and 3.5 g. of methanesulfonic anhydride were added and the mixture stirred at ambient temperature for 3 days. Another 3.5 g. of methanesulfonic anhydride was added. The next day the mixture was diluted with 20 ml. of aqueous sodium bicarbonate and the organic phase was dried over magnesium sulfate and evaporated under vacuum to a residue, which was dissolved in dichloromethane. The solution was chromatographed over a silica gel column, eluting first with dichloromethane and then with chloroform. The product-containing fractions were combined and evaporated to obtain 3.1 g. of the desired product.

reactant | 3-(2-chloro-4-methylphenylaminomethyl)pyridine | ClC1=C(C=CC(=C1)C)NCC=1C=NC=CC1 | C13H13ClN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-chloro-4-methylphenyl)-N-(pyridin-3-ylmethyl)-methanesulfonamide | ClC1=C(C=CC(=C1)C)N(S(=O)(=O)C)CC=1C=NC=CC1 | C14H15ClN2O2S
